US04578381
To 5 g of ethy 2-acetamido-2-carboxy-3-(2-quinolon-4-yl)propionate was added 150 ml of 20%-hydrochloric acid and the mixture was refluxed for 9 hours. The reaction mixture was concentrated under a reduced pressure, the residue was recrystallized from ethanon-water to obtain 3.2 g of 2-amino-3-(2-quinolon-4-yl)propionic acid hydrochloride hydrate in the form of folorless prism-like crystals.

reactant | ethy 2-acetamido-2-carboxy-3-(2-quinolon-4-yl)propionate | 5 g | C(C)(=O)NC(C(=O)OCC)(CC1=CC(NC2=CC=CC=C12)=O)C(=O)O | C17H18N2O6
reactant | hydrochloric acid | Cl | ClH
product | 2-amino-3-(2-quinolon-4-yl)propionic acid hydrochloride hydrate | 3.2 g | O.Cl.NC(C(=O)O)CC1=CC(NC2=CC=CC=C12)=O | InChI=1S/C12H12N2O3.ClH.H2O/c13-9(12(16)17)5-7-6-11(15)14-10-4-2-1-3-8(7)10;;/h1-4,6,9H,5,13H2,(H,14,15)(H,16,17);1H;1H2
